US05395835
Step B: Preparation of 4-(2,3-dichlorophenyl)-1-piperazineethaneamine
A solution of 4-(2,3-dichlorophenyl)-1-piperazine-acetonitrile (5.45 g, 0.0202 mol) in dry tetrahydrofuran (50 mL) is added dropwise to a suspension of lithium aluminum hydride (LiAIH4) (0.84 g, 0.210 mol) in dry tetrahydrofuran (50 mL) at 0° C. The suspension is stirred at 0° C. for 3 hours, followed by dropwise addition of 2N sodium hydroxide (NaOH). The mixture is filtered through Celite and concentrated in vacuo to give 5.7 g of the title compound as a yellow oil.

reactant | 4-(2,3-dichlorophenyl)-1-piperazine-acetonitrile | 0.0202 mol, 5.45 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CC#N | C12H13Cl2N3
reactant | lithium aluminum hydride | 0.210 mol, 0.84 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(2,3-dichlorophenyl)-1-piperazineethaneamine | 5.7 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCN | C12H17Cl2N3
